US05665725
A mixture of dry ether (600 ml) and 15% BuLi in hexane (500 ml) was cooled to -45° C. A solution of 4-bromo-1-fluorobenzene (145 g) in dry ether (350 ml) was added dropwise at -45° C. followed by stirring for 1 h. A solution of 8-methyl-8-azabicyclo[3,2,1]octan-3-one (85 g) in dry ether (400 ml) was added dropwise at -50° C. followed by stirring for 30 min, the temperature raising to -20° C. The reaction mixture was poured into 2M hydrochloric acid and the phases separated. The ether phase was extracted with 2M hydrochloric acid and the combined aqueous phases made alkaline with aqueous NaOH. Extraction with ethyl acetate, drying of the organic phase over magnesium sulfate and removal of solvent in vacuo, gave 3-(4-fluorophenyl)-3-hydroxy-8-methyl-8-azabicyclo[3,2,1]octane (96 g) as a solid, mp: 169° C.

reactant | BuLi | [Li]CCCC
reactant | 4-bromo-1-fluorobenzene | 145 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 8-methyl-8-azabicyclo[3,2,1]octan-3-one | 85 g | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | hexane | 500 ml | CCCCCC | C6H14
solvent | ether | 350 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
product | 3-(4-fluorophenyl)-3-hydroxy-8-methyl-8-azabicyclo[3,2,1]octane | 96 g | FC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18FNO
